US07399759B2
N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]benzamide
2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (330 mg, 0.86 mmol) was dissolved in N,N-dimethylacetamide (10 ml), and benzoyl chloride (264 mg, 1.87 mmol) was added thereto. The reaction mixture was stirred at 60° C. for 14 hrs and combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (1:3, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (125 mg, 39%) as white crystals.

reactant | 2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 0.86 mmol, 330 mg | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | benzoyl chloride | 1.87 mmol, 264 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]benzamide | 125 mg, 39% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNC(C2=CC=CC=C2)=O | C21H15N3O2S
